US04960897
Preparation of 2-chloro-6-(l-iodomethylvinyl)pyridine (Compound No. I-5)
A mixture of 0.50 g of 2-chloro-6-(1-chloromethylvinyl) pyridine, 0.88 g of potassium iodide, 5 ml of acetone and 0.5 ml of N,N-dimethylformamide was stirred at 50° to 60° C. for 5 hours. After the reaction mixture was cooled to room temperature, water was added thereto to extract the mixture with ethyl acetate. The extract was subsequently washed with an aqueous solution of 10% sodium thiosulfate, water, saturated saline solution in that order, and dried over anhydrous magnesium sulfate. After distilling off the solvent, the residue was purified by silica gel column chromatography (eluted with dichloromethane) to obtain 0.45 g of the objective compound.

reactant | 2-chloro-6-(1-chloromethylvinyl) pyridine | 0.50 g | ClC1=NC(=CC=C1)C(=C)CCl | C8H7Cl2N
reactant | potassium iodide | 0.88 g | [I-].[K+]
reactant | acetone | 5 ml | CC(=O)C | C3H6O
reactant | N,N-dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-chloro-6-(l-iodomethylvinyl)pyridine | 0.45 g | ClC1=NC(=CC=C1)C(=C)CI | C8H7ClIN
